US07977358B2
B) (E and/or Z)-3-Methoxy-2-propionyl-pent-2-enoic acid methyl ester
7.50 g (40.3 mmol) of 3-oxo-2-propionyl-pentanoic acid methyl ester were dissolved in 40 ml of MeCN and the mixture cooled to 2° C. While stirring, 13.26 g (40.3 mmol) of caesium carbonate were added in small portions and the reaction then warmed up to RT. 6.86 g=4.73 ml (40.3 mmol) of methyl trifluoromethanesulfonate were then added drop by drop between 22 and 25° C. After 90 min, the reaction mixture was poured into crashed ice and extracted twice with Et2O; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated to give 7.86 g of crude compound as yellow oil.

reactant | 3-oxo-2-propionyl-pentanoic acid methyl ester | 40.3 mmol, 7.50 g | COC(C(C(CC)=O)C(CC)=O)=O | C9H14O4
reactant | caesium carbonate | 40.3 mmol, 13.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl trifluoromethanesulfonate | 40.3 mmol, 4.73 ml | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
solvent | MeCN | 40 ml | CC#N | C2H3N
product | 3-Methoxy-2-propionyl-pent-2-enoic acid methyl ester | 7.86 g | COC(C(=C(CC)OC)C(CC)=O)=O | C10H16O4
